US07220744B2
c) 1-(2-piperazin-1-yl-thiazol-5-yl)-propan-1-one hydrochloride
To a solution of 0.58 mmol 4-(5-propionyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester in 6 ml dioxane was added dropwise 8.76 mmol hydrogen chloride solution (4 M in dioxane) and the mixture was stirred at 90° C. for 90 min. The reaction mixture was then cooled to 0° C. and diluted with ether. The resulting crystals were collected by filtration and washed with ether to afford the title compound as a white crystalline solid (yield 99%). MS (m/e): 226.4 (M+H+, 100%).

reactant | 4-(5-propionyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.58 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)C(CC)=O | C15H23N3O3S
reactant | hydrogen chloride | 8.76 mmol, 4 M | Cl | ClH
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 1-(2-piperazin-1-yl-thiazol-5-yl)-propan-1-one hydrochloride | yield 99% | Cl.N1(CCNCC1)C=1SC(=CN1)C(CC)=O | InChI=1S/C10H15N3OS.ClH/c1-2-8(14)9-7-12-10(15-9)13-5-3-11-4-6-13;/h7,11H,2-6H2,1H3;1H
